US06252084B1
A solution of 1.03 g (3.1 mmol) of 5-methoxy-2-methyl-1-octyl-1H-indole-3-acetamide and 5 mL of 1M BBr3/methylene chloride in 50 mL of methylene chloride was stirred for 24 hours, poured into water and 150 mL of ethyl acetate added. The organic layer was separated, washed with NaHCO3 solution, dried (Na2SO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel by eluting with 5% MeOH/methylene chloride to give 16 mg (32% yield) of 5-hydroxy-2-methyl-1-octyl-1H-indole-3-acetamide.

reactant | 5-methoxy-2-methyl-1-octyl-1H-indole-3-acetamide | 3.1 mmol, 1.03 g | COC=1C=C2C(=C(N(C2=CC1)CCCCCCCC)C)CC(=O)N | C20H30N2O2
reactant | BBr3 methylene chloride | 1M, 5 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | water | O | H2O
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-2-methyl-1-octyl-1H-indole-3-acetamide | 16 mg, 32% yield | OC=1C=C2C(=C(N(C2=CC1)CCCCCCCC)C)CC(=O)N | C19H28N2O2
